

***********************************************************************************
* Library of baseline MOSFETs
***********************************************************************************


****************************************************************
*** Acknowledgement :  http://ptm.asu.edu/
*** Authors : Ahmedullah Aziz and Sumeet Kumar Gupta, Penn State
****************************************************************


.LIB Std_FET_45n

.param w_fet=1u
.param lg_fet=45n
.param vdd_fet=1

.subckt nfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/45fet_new.pm'
mnfet d g s b nmos L=l w=w
.ends nfet

.subckt pfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/45fet_new.pm'
mpfet d g s b pmos l=l w=w
.ends pfet

.ENDL Std_FET_45n
**************************************************************************
.LIB Std_FET_45n_lp

.param w_fet=1u
.param lg_fet=45n
.param vdd_fet=1

.subckt nfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/45fet_lp.pm'
mnfet d g s b nmos L=l w=w
.ends nfet

.subckt pfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/45fet_lp.pm'
mpfet d g s b pmos l=l w=w
.ends pfet

.ENDL Std_FET_45n_lp
**************************************************************************
.LIB Std_FET_45n_hp

.param w_fet=1u
.param lg_fet=45n
.param vdd_fet=1

.subckt nfet1 d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/45fet_hp.pm'
mnfet d g s b nmos L=l w=w
.ends nfet1

.subckt pfet1 d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/45fet_hp.pm'
mpfet d g s b pmos l=l w=w
.ends pfet1

.ENDL Std_FET_45n_hp
**************************************************************************
.LIB Std_FET_22n_lp

.param w_fet=1u
.param lg_fet=22n
.param vdd_fet= 1

.subckt nfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/22fet_lp.pm'
mnfet d g s b nmos l=l w=w
.ends nfet

.subckt pfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/22fet_lp.pm'
mpfet d g s b pmos l=l w=w
.ends pfet

.ENDL Std_FET_22n_lp
**************************************************************************

.LIB Std_FET_22n

.param w_fet=1u
.param lg_fet=22n
.param vdd_fet=1

.subckt nfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/22nfet_hp.pm'
mnfet d g s b nmos L=l w=w
.ends nfet

.subckt pfet d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/22nfet_hp.pm'
mpfet d g s b pmos l=l w=w
.ends pfet

.ENDL Std_FET_22n
*****************************************************************************
.LIB Std_FET_22n_hp

.param w_fet=1u
.param lg_fet=22n
.param vdd_fet=1

.subckt nfet1 d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/22fet_hp.pm'
mnfet d g s b nmos L=l w=w
.ends nfet1

.subckt pfet1 d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/22fet_hp.pm'
mpfet d g s b pmos L=l w=w
.ends pfet1

.ENDL Std_FET_22n_hp
**********************************************************************************
.LIB Std_FET_10n

.param fin_height_fet=21n
.param fin_width_fet=10n
.param lg_fet=14n
.param vdd_fet=0.75
.param no_of_fins_fet=1

.subckt nfet d g s b l=lg_fet nfin=no_of_fins_fet
.include './MOSFET_MODELS/10nfet_hp.pm'
mnfet d g s b nfet L=l NFIN=nfin
.ends nfet_22hp

.subckt pfet d g s b l=lg_fet nfin=no_of_fins_fet
.include './MOSFET_MODELS/10pfet_hp.pm'
mpfet d g s b pfet l=l NFIN=nfin
.ends pfet

.ENDL Std_FET_10n

********************************************************************
***capacitance customized for FEFET
.LIB NP_2DFET_20nm

.param w_fet=1u
.param n_mod_par = 0.1

.subckt nfet d g s b n_mod=n_mod_par w_par=w_fet 
.hdl './MOSFET_MODELS/2D_FET.va'
Xnfet d g s b efet_110 type_FET=1 type=1 n=n_mod W=w_par
.ends nfet

.subckt pfet d g s b n_mod=n_mod_par w_par=w_fet
.hdl './MOSFET_MODELS/2D_FET.va'
Xpfet d g s b efet_110 type_FET=1 type=-1 n=n_mod W=w_par
.ends pfet

.ENDL NP_2DFET_20nm

***********************************************************************************
***capacitance customized for FEFET
.LIB norm_2DFET

.param w_fet_n = 90n
.param w_fet_p = 90n
.param n_mod_par = 0.1

.subckt nfet_norm d g s b w_par_n=w_fet_n
.hdl './MOSFET_MODELS/2D_FET_norm.va'
Xnfet d g s b efet_norm type_FET=1 type=1  W=w_par_n
.ends nfet_norm

.subckt pfet_norm d g s b w_par_p=w_fet_p
.hdl './MOSFET_MODELS/2D_FET_norm.va'
Xpfet d g s b efet_norm type_FET=1 type=-1 W=w_par_p
.ends pfet_norm

.ENDL norm_2DFET
***********************************************************************************
.LIB Std_FET_16hp

.param w_fet=1u
.param lg_fet=16n
.param vdd_fet=1

.subckt nfet_16hp d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/16fet_hp.pm'
mnfet d g s b nmos L=l w=w
.ends nfet_16hp

.subckt pfet_16hp d g s b l=lg_fet w=w_fet
.include './MOSFET_MODELS/16fet_hp.pm'
mpfet d g s b pmos l=l w=w
.ends pfet_16hp

.ENDL Std_FET_16hp
